US07465731B2
To a solution of ethyl (2E)-3-(5-chloro-2-pyrazinyl)acrylate (1.78 g) and (3R)-1-(4-chlorobenzyl)-3-pyrrolidinamine (2.65 g) in DMF (25 mL) was added K2CO3 (5.79 g). After stirring for 3 hours at 100° C., the reaction mixture was partitioned between ethyl acetate and H2O. The organic layer was washed with H2O, dried over MgSO4, filtered, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give ethyl (2E)-3-(5-{[(3R)-1-(4-chlorobenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylate (1.58 g).

reactant | ethyl (2E)-3-(5-chloro-2-pyrazinyl)acrylate | 1.78 g | ClC=1N=CC(=NC1)/C=C/C(=O)OCC | C9H9ClN2O2
reactant | (3R)-1-(4-chlorobenzyl)-3-pyrrolidinamine | 2.65 g | ClC1=CC=C(CN2C[C@@H](CC2)N)C=C1 | C11H15ClN2
reactant | K2CO3 | 5.79 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | ethyl (2E)-3-(5-{[(3R)-1-(4-chlorobenzyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)acrylate | 1.58 g | ClC1=CC=C(CN2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)OCC)C=C1 | C20H23ClN4O2
